US07557213B2
Step 2: 1-(3-Chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid
Experimental conditions analogous to those described for Step 4 of Example 60, from 7.00 g (20.5 mmol) of 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester, 200 mL of 1:1 methanol-water mixture and 0.98 g (41.0 mmol) of lithium hydroxide with a work-up consisting only of thorough evaporation of solvents. The residue was directly taken to step 3.

reactant | 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 20.5 mmol, 7.00 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC(=CC=C1)Cl | C19H16ClNO3
reactant | lithium hydroxide | 41.0 mmol, 0.98 g | [OH-].[Li+]
solvent | methanol water | 200 mL | CO.O
product | 1-(3-Chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)O)C=CC1 | C17H12ClNO3
